US06875775B2
1-[4-(2-Benzyloxyethoxy)phenyl]-2-phenyl ethanone
1-(4-Hydroxyphenyl)-2-phenyl ethanone (17 g, 0.08 mol) is dissolved in 2-butanone (200 ml) and potassium carbonate (33.1 g, 0.24 mol) and 2-benzyloxyethyl bromide (25.8 g, 0.12 mol) is added to the solution. Mixture is stirred and refluxed for three hours. Then the solution is filtered and the filtrate is evaporated to dryness. The residue is dissolved in toluene, washed with 2 N aqueous sodium hydroxide solution and with water, dried and evaporated to dryness. The product is crystallized from ethanol. Yield 23.2 g, 84%.

reactant | 1-(4-Hydroxyphenyl)-2-phenyl ethanone | 0.08 mol, 17 g | OC1=CC=C(C=C1)C(CC1=CC=CC=C1)=O | C14H12O2
reactant | potassium carbonate | 0.24 mol, 33.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-benzyloxyethyl bromide | 0.12 mol, 25.8 g | C(C1=CC=CC=C1)OCCBr | C9H11BrO
solvent | 2-butanone | 200 ml | CC(CC)=O | C4H8O
product | 1-[4-(2-Benzyloxyethoxy)phenyl]-2-phenyl ethanone | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)C(CC1=CC=CC=C1)=O | C23H22O3
